US20010021775A1
Preparation of 6-cyano-3,4-dihydroquinoxalin-2(1H)-one.
N-Boc-2-amino-5-cyanophenylglycin ethyl ester (2.6 g, 8.17 mmol) in MeOH (20 mL) was treated with 4M HCl in dioxane (20 mL) at rt for 16 hours. To the mixture was added Et2O until no more solid appeared. The solid was collected, washed with Et2O, and dried by air to give the product (1.4 g, 82 %). 1H NMR (CD3COCD3) δ7.02 (d, J=8.4 Hz, 1H), 7.00 (d, J=1.8 Hz, 1H), 6.95 (d, J=8.4 Hz, 1H), 3.89 (s, 2H).

reactant | N-Boc-2-amino-5-cyanophenylglycin ethyl ester | 8.17 mmol, 2.6 g | C(C)OC(CN(C(=O)OC(C)(C)C)C1=C(C=CC(=C1)C#N)N)=O | C16H21N3O4
reactant | HCl | 4M | Cl | ClH
reactant | Et2O | CCOCC | C4H10O
solvent | MeOH | 20 mL | CO | CH4O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 6-cyano-3,4-dihydroquinoxalin-2(1H)-one | 1.4 g, 82 % | C(#N)C=1C=C2NCC(NC2=CC1)=O | C9H7N3O
